US07153851B2
(3R,4S)-1-Benzyl-3-hydroxy-4-methylpyrrolidine (4.00 g) was dissolved in dichloromethane (40 mL). While this solution was cooled on a dry ice/acetone bath, triethylamine (3.06 mL) was added. Methanesulfonyl chloride (1.70 mL) was then added dropwise and the mixture was further stirred for 1 hour. Following addition of water (40 mL), the temperature of the mixture was allowed to rise to room temperature and the dichloromethane layer was separated. The aqueous layer was extracted with dichloromethane (40 mL) and the extract was combined with the dichloromethane layer. The combined dichloromethane layer was then washed with water, followed by drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting residue was dissolved in N,N-dimethylformamide (120 mL). To this solution, tetrabutylammonium cyanide (5.53 g) and sodium cyanide (2.05 g) were added and the mixture was stirred at 80° C. for 13 hours. Subsequently, the reaction mixture was concentrated under reduced pressure and water (50 mL) was added to the resulting residue. The mixture was extracted with diethyl ether (2×200 mL). The diethyl ether extracts were combined and the combined extract was washed with a saturated aqueous solution of sodium chloride, followed by drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting residue was purified on a silica gel column (hexane: ethyl acetate=4:1) to give 3.32 g of (3R,4S)-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile as a brown oil.

reactant | (3R,4S)-1-Benzyl-3-hydroxy-4-methylpyrrolidine | 4.00 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C)O | C12H17NO
reactant | triethylamine | 3.06 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 1.70 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 40 mL | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (3R,4S)-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile | 3.32 g | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](C1)C)C#N | C13H16N2
